Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Lipitor / Simvastatin / Megestrol
 
Attending: ___.
 
Chief Complaint:
abdominal distension
 
Major Surgical or Invasive Procedure:
Paracentesis

 
History of Present Illness:
Mr. ___ is a ___ year old man with h/o gastric ca, s/p 
gastrectomy in ___, s/p 4 cycles ECX, cycle 1 CapOx in ___, 
now with diffuse omental caking and malignant ascites, who is 
being admitted with worsening abdominal distension, with plan 
for ___ guided paracentesis.  
  
The patient had a therapeutic paracentesis last week with some 
improvement in abdominal fullness. However, he has noted 
increasing abdominal fullness over the past few days, associated 
with abdominal pain typically in the evenings. He was seen in 
the ED yesterday and discharged home with plan for ___ 
paracentesis today. Otherwise, the patient is feeling ok. His 
wife notes that he has had increasing nausea, not relieved with 
Zofran, but Ativan helped yesterday. He also has mild shortness 
of breath with exertion, but is still able to make it up 3 
flights of stairs to their apartment.
    
ROS: No fevers, chills, chest pain, cough, headache, dysuria. No 
BM in a week, not taking in much PO; on TPN at home.
 
Past Medical History:
- p/w dysphagia  
- EGD demonstrated a mass in the cardia of the stomach and  
biopsy was consistent with poorly differentiated adenocarcinoma  

with focal signet ring features.  
- by EUS, he was staged as T3 with no evidence of invasion into 
the thoracic aorta pericardium or pleura  
- PET CT scan demonstrated a focus of avidity in the region of a 
gastroesophageal junction, likely corresponding to the known 
carcinoma and no evidence of distant metastatic disease was 
identified.  
- ___, underwent total gastrectomy - Pathology from that 
procedure revealed a 6 x 6 x 1.5cm adenocarcinoma, diffuse type, 
poorly differentiated with invasion into the serosa/visceral 
peritoneum.  
- ___ lymph nodes were positive out of 18 examined lymph nodes. 
The proximal margin was involved by invasive carcinoma and he 
did have lymphatic invasion.  
- diagnosed with stage IIIC gastric cancer.  
- Started on ___ with adjuvant ECX - received 4 cycles - 
last treatment given on ___.  
- Metastatic disease noted in ___ and C1D1 
Oxaliplatin/capecitabine started on ___
  
Other Past Medical History:  
HLD  
Chronic pruritis, unknown etiology  
Tonsillectomy and Adenoidectomy  
Hydrocele repair  
Ex-lap ___  
Open chole  
Meniscus surgery in ___  
Cataract surgery in ___  
Removal of a large colonic polyp on ___
 
Social History:
___
Family History:
His mother died at age ___ from a brain hemorrhage and then had a 
kidney removed. Father had high blood pressure and died at ___ of 
a stroke. Sister had cancer and died at ___. A sister had a 
stroke and died at ___. He has another sister with no medical 
problems and a brother had early stage lung cancer who is alive 
at age ___.  
 
Physical Exam:
ADMISSION EXAM:
VS: T 96.5 BP 118/78 HR 95 RR 18 O2sat 97%RA 
GEN: AOx3, NAD, cachectic appearing  
HEENT: MMM. no LAD. no JVD. neck supple. 
Cards: RR S1/S2 normal. no murmurs/gallops/rubs.  
Pulm: No dullness to percussion, CTAB no crackles or wheezes  
Abd: BS+, soft, diffusely tender in abdomen, mildly distended 
with +fluid wave, no rebound/guarding, no HSM 
Extremities: wwp, no edema. DPs, PTs 2+.  
Neuro: AOx3, no focal deficits 
  
DISCHARGE EXAM:
Less fullness on abdominal exam, otherwise unchanged
 
Pertinent Results:
ADMISSION LABS:
___ 09:45AM BLOOD WBC-13.7* RBC-3.91* Hgb-11.6* Hct-33.1* 
MCV-85 MCH-29.7 MCHC-35.1* RDW-15.2 Plt ___
___ 09:45AM BLOOD Neuts-82.3* Lymphs-9.7* Monos-6.0 Eos-1.8 
Baso-0.3
___ 09:45AM BLOOD ___ PTT-25.7 ___
___ 09:45AM BLOOD Glucose-177* UreaN-30* Creat-0.7 Na-132* 
K-5.7* Cl-100 HCO3-24 AnGap-14
___ 01:09PM BLOOD K-4.4
  
STUDIES:
___ U/S guided paracentesis:
1. Small volume ascites.  
2. Given the patient's pressure symptoms, 1.1 liters of fluid 
was drained via a right flank approach.  

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with h/o gastric ca, s/p 
gastrectomy in ___, s/p 4 cycles ECX, cycle 1 CapOx in ___, 
now with diffuse omental caking and malignant ascites, admitted 
for U/S-guided therapeutic paracentesis for abdominal 
distension.  
    
#. Abdominal distension: Initially thought to be due to 
increasing ascites. However, only 1L removed from paracentesis 
with little improvement in symptoms. Abdominal fullness likely 
also related to constipation, as the patient did not have a 
bowel movement for almost 10 days prior to admission. He was 
given a dose of Lactulose, as well as an enema, and had a 
successful bowel movement prior to discharge. He was started on 
Lactulose, Colace, and Senna.
 

 
Medications on Admission:
Vitamin B12 1000mcg IM qmonth  
Lidocaine-Prilocaine cream for port access  
Lorazepam 0.5mg PO q6h prn  
Zofran 8mg PO q8h prn  
Oxycontin 10mg PO BID
Oxycodone ___ PO q4-6h prn  
Maalox ___ PO prn  
Terbinafine 1% cream BID to rash  
Lidoderm TD daily
 
Discharge Medications:
1. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for nausea, anxiety.
Disp:*30 Tablet(s)* Refills:*0*
2. lactulose 10 gram/15 mL Solution Sig: Fifteen (15) mL PO 
three times a day as needed for constipation.
Disp:*500 mL* Refills:*0*
3. prochlorperazine maleate 10 mg Tablet Sig: One (1) Tablet PO 
every six (6) hours as needed for nausea.
Disp:*30 Tablet(s)* Refills:*0*
4. insulin regular human 100 unit/mL Solution Sig: sliding scale 
 Injection four times a day: ___ 151-200: 2units
___ 201-250: 4units
___ 251-300: 6units
___ 301-350: 8units
___ 351-400: 10units.  
5. oxycodone 10 mg Tablet Extended Release 12 hr Sig: One (1) 
Tablet Extended Release 12 hr PO Q12H (every 12 hours).  
6. oxycodone 5 mg/5 mL Solution Sig: ___ mg PO Q6H (every 6 
hours) as needed for pain.  
7. alum-mag hydroxide-simeth 200-200-20 mg/5 mL Suspension Sig: 
Fifteen (15) ML PO QID (4 times a day) as needed for 
indigestion.  
8. terbinafine 1 % Cream Sig: One (1) Appl Topical BID (2 times 
a day).  
9. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
10. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
11. lidocaine 5 %(700 mg/patch) Adhesive Patch, Medicated Sig: 
One (1) Adhesive Patch, Medicated Topical DAILY (Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Malignant ascites, constipation, nausea
Secondary Diagnosis: Gastric cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,
  
You were admitted to the hospital for a therapeutic 
paracentesis. You had a liter of fluid removed by the 
radiologists. You were also found to be constipated - you should 
take stool softeners and Lactulose as needed for constipation.
  
The following changes were made to your medications:
#. START Lactulose as needed for constipation
#. START Compazine as needed for nausea
  
It was a pleasure meeting you and taking part in your care.
 
Followup Instructions:
___